US08212041B2
1) Preparation of tert-butyl (6-(3H-1,2,3-triazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate
tert-Butyl (6-ethynyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate (0.109 g, 0.399 mmol) and sodium azide (0.0285 g, 0.439 mmol) were dissolved DMF (2 mL) at RT. The reaction mixture was stirred overnight at RT then at 70° C. for 3 h. Water was added at RT and the aqueous layer was extracted with EtOAc and 1-butanol. The organic extracts were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. Used without further purification.

reactant | tert-Butyl (6-ethynyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | 0.399 mmol, 0.109 g | C(#C)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C13H15N5O2
reactant | sodium azide | 0.439 mmol, 0.0285 g | [N-]=[N+]=[N-].[Na+]
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | tert-butyl (6-(3H-1,2,3-triazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methylcarbamate | N1=NNC(=C1)C=1C=CC=2N(N1)C(=NN2)CNC(OC(C)(C)C)=O | C13H16N8O2
